### PR TITLE
Update reflectionless potential operators

### PR DESCRIPTION
**Pull request by casualPhysics**

### CODE REVIEW

File: PhysLean/QuantumMechanics/OneDimension/ReflectionlessPotential/Basic.lean [hunk 1]
```diff
@@ -69,6 +71,32 @@ noncomputable def reflectionlessPotential (x : ℝ) : ℝ :=
 noncomputable def tanhOperator (ψ : ℝ → ℂ) : ℝ → ℂ :=
   fun x => Real.tanh (Q.κ * x) * ψ x
 
+/-- Pointwise multiplication by a function of temperate growth -/
+noncomputable def mulByTemperateGrowth {g : ℝ → ℂ} (hg : g.HasTemperateGrowth) :
+    𝓢(ℝ, ℂ) →L[ℂ] 𝓢(ℝ, ℂ) :=
+  bilinLeftCLM (ContinuousLinearMap.mul ℂ ℂ) hg
+
+-- First, you need a theorem that the scaled tanh has temperate growth
+theorem scaled_tanh_hasTemperateGrowth (κ : ℝ) :
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/OneDimension/ReflectionlessPotential/Basic.lean]: lemma not theorem

File: PhysLean/QuantumMechanics/OneDimension/ReflectionlessPotential/Basic.lean [hunk 2]
```diff
@@ -69,6 +71,32 @@ noncomputable def reflectionlessPotential (x : ℝ) : ℝ :=
...
+    Function.HasTemperateGrowth (fun x => (Real.tanh (κ * x))) := by
+  exact tanh_const_mul_hasTemperateGrowth κ
+
+-- Scaled tanh embedded into the complex numbers has temperate growth
+@[sorryful]
+theorem scaled_tanh_complex_hasTemperateGrowth (κ : ℝ) :
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/OneDimension/ReflectionlessPotential/Basic.lean]: lemma not theorem

File: PhysLean/QuantumMechanics/OneDimension/ReflectionlessPotential/Basic.lean [hunk 3]
```diff
@@ -69,6 +71,32 @@ noncomputable def reflectionlessPotential (x : ℝ) : ℝ :=
...
+    Function.HasTemperateGrowth (fun x => (Real.tanh (κ * x) : ℂ)) := by
+  sorry
+
+/-- Define tanh(κ X) multiplication pointwise as a Schwartz map -/
+@[sorryful]
+noncomputable def tanhOperatorSchwartz (Q : ReflectionlessPotential) :
+    𝓢(ℝ, ℂ) →L[ℂ] 𝓢(ℝ, ℂ) := by
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/OneDimension/ReflectionlessPotential/Basic.lean]: if you get rid of the `exact ` below, then you don't need the `by` here

File: PhysLean/QuantumMechanics/OneDimension/ReflectionlessPotential/Basic.lean [hunk 4]
```diff
@@ -81,6 +109,44 @@ noncomputable def annihilationOperator (ψ : ℝ → ℂ) : ℝ → ℂ :=
   let factor : ℝ := 1 / Real.sqrt (2 * Q.m)
   fun x => factor * (momentumOperator ψ x - Complex.I * Q.ℏ * Q.κ * Q.tanhOperator ψ x)
 
+/-- creation operator defined as a Schwartz map -/
+@[sorryful]
+noncomputable def creationOperatorSchwartz (Q : ReflectionlessPotential) : 𝓢(ℝ, ℂ) →L[ℂ] 𝓢(ℝ, ℂ)
+    where
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/OneDimension/ReflectionlessPotential/Basic.lean]: I think you should just be able to do 
```lean
@[sorryful]
noncomputable def creationOperatorSchwartz (Q : ReflectionlessPotential) : 𝓢(ℝ, ℂ) →L[ℂ] 𝓢(ℝ, ℂ) := 
(1 / Real.sqrt (2 * Q.m)) • momentumOperatorSchwartz ψ +
    ((Complex.I * Q.ℏ * Q.κ) / Real.sqrt (2 * Q.m)) • Q.tanhOperatorSchwartz ψ
```

Likewise with the definition below.

Comment (casualPhysics) [reply PhysLean/QuantumMechanics/OneDimension/ReflectionlessPotential/Basic.lean]: hmm  this doesn't seem to work since \psi is undefined. also - and we don't need to prove the properties?

**Comment by jstoobysmith** [comment]
Does it work if you remove the \psi?The properties should come for free if this works

**Comment by jstoobysmith** [comment]
(Fixed formatting of above message)

**Review by jstoobysmith — APPROVED** [review]
All looks good with me - I merged with master to clean things up. But once the linters are done you should be able to merge.
